US05344843
A mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.611 g) in dimethylformamide (6 mL) under argon was treated with 55% sodium hydride (0.148 g), stirred for 30 minutes in a ice-water bath and then 1-(bromoacetyl)-4-phenyl-piperidine (0.8 g) in dimethylformamide (5 mL) was added. The solution was stirred at room temperature for 18 hours and worked up as in Example 20. The crude product was purified by flash chromatography (ethyl acetate-hexane; 3:7 increasing to 2:5) to provide 0.9 g of 4-[2-oxo-2-(4-phenyl- 1-piperidinyl)ethoxy]-alpha-oxobenzeneacetic acid methyl ester as an oil.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.611 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.148 g | [H-].[Na+]
reactant | 1-(bromoacetyl)-4-phenyl-piperidine | 0.8 g | BrCC(=O)N1CCC(CC1)C1=CC=CC=C1 | C13H16BrNO
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[2-oxo-2-(4-phenyl- 1-piperidinyl)ethoxy]-alpha-oxobenzeneacetic acid methyl ester | 0.9 g | COC(C(C1=CC=C(C=C1)OCC(N1CCC(CC1)C1=CC=CC=C1)=O)=O)=O | C22H23NO5
